US08470823B2
Step 1: 1-tert-Butyl 3-methyl (3S)-4-({[(1S,2R)-2-phenylcyclopropyl]amino}carbonyl)-1,3-piperazinedicarboxylate (D1)
A solution of 1-tert-butyl 3-methyl (3S)-1,3-piperazinedicarboxylate (AA3) in DCM (0.17 M) was added to a stirred solution of [(1R,2S)-2-isocyanatocyclopropyl]benzene (1.0 eq.) in DCM (0.17 M) and the mixture was stirred at RT for 1 h. Solvents were evaporated under reduced pressure to give the title compound that was used as such in next step. MS (ES+) C21H29N3O5 requires 403, found: 404 (M+H)+.

reactant | 1-tert-butyl 3-methyl (3S)-1,3-piperazinedicarboxylate | N1(C[C@H](NCC1)C(=O)OC)C(=O)OC(C)(C)C | C11H20N2O4
reactant | [(1R,2S)-2-isocyanatocyclopropyl]benzene | 1.0 eq. | N(=C=O)[C@@H]1[C@H](C1)C1=CC=CC=C1 | C10H9NO
solvent | DCM | 0.17 M | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.17 M | C(Cl)Cl | CH2Cl2
product | 1-tert-Butyl 3-methyl (3S)-4-({[(1S,2R)-2-phenylcyclopropyl]amino}carbonyl)-1,3-piperazinedicarboxylate | C1(=CC=CC=C1)[C@@H]1[C@H](C1)NC(=O)N1[C@@H](CN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C21H29N3O5
